US07977345B2
To a mixture of 4-[9-(tetrahydro-pyran-2-yl)-9H-purin-6-yloxy]-phenylamine (0.311 g, 1 mmol) and 1-(4-fluoro-phenylcarbamoyl)-cyclopropanecarboxylic acid (0.334 g, 1.5 mmol) in DMF (5 mL) was added TEA (216 μL, 2 mmol) followed by HATU (0.76 g, 2 mmol). The resulting solution was stirred overnight at room temperature. The reaction mixture was dumped into water (25 mL) and extracted with EtOAc (2×). The combined organic extracts were washed with 10% LiCl(aq.) (4×), satd. NaHCO3(aq) (2×), water, (1×) and brine (1×), followed by drying over MgSO4 and concentration in vacuo. The crude solids were purified by flash chromatography (silica gel, 1:1 EtOAc:Hexanes containing 2% 7N NH3 in MeOH), affording N-(4-fluorophenyl)-N′-(4-{[9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl]oxy}phenyl)cyclopropane-1,1-dicarboxamide (0.430 g, 83% yield) as a solid. 1H NMR (400 MHz, CDCl3): δ 9.50 (s, 1H), 8.95 (s, 1H), 8.45 (s, 1H), 7.60 (m, 2H), 7.45 (m, 2H), 7.20 (m, 2H), 7.0 (m, 2H), 5.8 (m, 1H), 4.20 (m, 1H), 3.8 (m, 1H), 2.20 (m, 3H), 1.80 (m, 2H), 1.7 (m, 5H). MS (ESI) for C27H25FN6O4: 517 (MH+).

reactant | 4-[9-(tetrahydro-pyran-2-yl)-9H-purin-6-yloxy]-phenylamine | 1 mmol, 0.311 g | O1C(CCCC1)N1C2=NC=NC(=C2N=C1)OC1=CC=C(C=C1)N | C16H17N5O2
reactant | 1-(4-fluoro-phenylcarbamoyl)-cyclopropanecarboxylic acid | 1.5 mmol, 0.334 g | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O | C11H10FNO3
reactant | HATU | 2 mmol, 0.76 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | water | 25 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(4-fluorophenyl)-N′-(4-{[9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl]oxy}phenyl)cyclopropane-1,1-dicarboxamide | 0.430 g, 83% yield | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)OC1=C2N=CN(C2=NC=N1)C1OCCCC1 | C27H25FN6O4
